US05428047
7.0 g (32.6 mmol) of 3-chloro-2-methyl-phenoxy-acetamide oxime are introduced into 70 ml of triethyl orthoformate, and 5 drops of boron trifluoride etherate are added at room temperature. The mixture is subsequently stirred at reflux temperature until the reaction is complete (approximately 1 hour) and the entire batch is concentrated in vacuo. The residue is taken up in 100 ml of methylene chloride and washed in succession with 100 ml of 2N hydrochloric acid, saturated sodium carbonate solution and water. The organic phase is dried over sodium sulphate and the solvent is subsequently distilled off. The oily residue which remains is distilled using a bulb tube. 4.2 g (57.4% of theory) of 3-(3-chloro-2-methyl-phenoxymethyl)-1,2,4-oxadiazole are obtained.

reactant | 3-chloro-2-methyl-phenoxy-acetamide oxime | 32.6 mmol, 7.0 g | ClC=1C(=C(OCC(N)=NO)C=CC1)C | C9H11ClN2O2
reactant | triethyl orthoformate | 70 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | boron trifluoride etherate | 5 drops | B(F)(F)F.CCOCC
product | 3-(3-chloro-2-methyl-phenoxymethyl)-1,2,4-oxadiazole | 4.2 g, 57.4% | ClC=1C(=C(OCC2=NOC=N2)C=CC1)C | C10H9ClN2O2
